US06297259B1
N-Methyl-N-(4-(4-(1-(4-fluorobenzyl)-1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-(benzo[1.3]dioxol-5-yl)butyl)benzamide
Prepare by the method of Example 1.7 using N-methyl-N-(2-(benzo[1,3]dioxol-5-yl)-4-methanesulfonylbutyl)benzamide and 4-(1-(4-fluorobenzyl)-1H-benzimidazole-2-carbonyl)piperidine to give the title compound.

reactant | N-methyl-N-(2-(benzo[1,3]dioxol-5-yl)-4-methanesulfonylbutyl)benzamide | CN(C(C1=CC=CC=C1)=O)CC(CCS(=O)(=O)C)C1=CC2=C(OCO2)C=C1 | C20H23NO5S
reactant | 4-(1-(4-fluorobenzyl)-1H-benzimidazole-2-carbonyl)piperidine | FC1=CC=C(CN2C(=NC3=C2C=CC=C3)C(=O)C3CCNCC3)C=C1 | C20H20FN3O
product | N-Methyl-N-(4-(4-(1-(4-fluorobenzyl)-1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-(benzo[1.3]dioxol-5-yl)butyl)benzamide | CN(C(C1=CC=CC=C1)=O)CC(CCN1CCC(CC1)C(=O)C1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2)C2=CC1=C(OCO1)C=C2 | C39H39FN4O4
